US06177422B1
Sodium triacetoxyborohydride (1.2 g, 5.9 mmol) is added to a solution of 3-oxo-3,4-dihydro-2H-benzo[1,4]-oxazine-6-carbaldehyde (0.5 g, 2.8 mmol) and 4-(piperazin-1-yl)-benzenesulfonamide (0.17 g, 3.1 mmol) in 20 mL of THF. The mixture is stirred at room temperature overnight. The reaction is quenched by addition of 50 mL of water, and the THF is removed under reduced pressure. The precipitate is collected by filtration and recrystallized from methanol to give 0.05 g (4% yield) of 4-[4-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-piperazin-1-yl]-benzenesulfonamide; mp 150-153° C.

reactant | Sodium triacetoxyborohydride | 5.9 mmol, 1.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]-oxazine-6-carbaldehyde | 2.8 mmol, 0.5 g | O=C1COC2=C(N1)C=C(C=C2)C=O | C9H7NO3
reactant | 4-(piperazin-1-yl)-benzenesulfonamide | 3.1 mmol, 0.17 g | N1(CCNCC1)C1=CC=C(C=C1)S(=O)(=O)N | C10H15N3O2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-[4-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-piperazin-1-yl]-benzenesulfonamide | 0.05 g, 4% yield | O=C1COC2=C(N1)C=C(C=C2)CN2CCN(CC2)C2=CC=C(C=C2)S(=O)(=O)N | C19H22N4O4S
